US06887863B2
N′-((2RS,3R)-3-amino-4-cyclohexyl-2-hydroxybutanoyl)-2-methylbenzohydrazide
To DCC resin (148 mg, 0.225 mmol) in 1.0 mL of dichloromethane was added 0.5 mL of a 0.45 M solution of HOBt (0.225 mmol) in dimethylacetamide/dichloromethane (1:6), and 0.5 mL of a 0.3M solution of o-toluic acid (0.15 mmol) in dimethylacetamide. After 5 minutes, 1.0 mL of a 0.225 M solution of Example 329A (0.225 mmol) in dimethylacetamide/dichloromethane (1:1) was added. The mixture was agitated for 18 hours and quenched with 0.19 g of trisamine resin (0.75 mmol) followed by 0.13 g of isocyanate resin (0.225 mmol) and agitated for 4 hours. The mixture was filtered and the resins washed with 1×3 mL of dichloromethane, the solvent was removed in vacuo, and the crude material purified by reverse phase preparative HPLC. The resulting material was treated with 1 mL of 50% trifluoroacetic acid/dichloromethane and agitated at ambient temperature for 18 hours. The solvent was removed in vacuo to give the desired product.

reactant | DCC | 0.225 mmol, 148 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 0.225 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | o-toluic acid | 0.15 mmol | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | trisamine | 0.75 mmol, 0.19 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | isocyanate | 0.225 mmol, 0.13 g | [N-]=C=O
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dimethylacetamide dichloromethane | CC(=O)N(C)C.ClCCl
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N′-((2RS,3R)-3-amino-4-cyclohexyl-2-hydroxybutanoyl)-2-methylbenzohydrazide | N[C@@H](C(C(=O)NNC(C1=C(C=CC=C1)C)=O)O)CC1CCCCC1 | C18H27N3O3
